US04873232
2-Ethoxy-5-methyl-4H-3,1-benzoxazin-4-one (20 g., 97.56 mmol) of Preparation III herein, and 4N HCl (10 ml), were stirred in tetrahydrofuran (THF, 200 ml) at room temperature for 15 minutes. The reaction mixture was evaporated to dryness under reduced pressure. The residue was dissolved in ethyl acetate (250 ml), washed with water (3×150 ml), and evaporated to give a pale yellow solid. Recrystallization from ethyl acetate/ pet. ether afforded 2-ethoxycarbonylamino-6-methylbenzoic acid (16.18 g, 74%) as colorless crystals; m.p. 123.5°-125° C.; analysis for C11H13NO4 : C, 59.19; H, 5.87; N, 6.27. Found: C, 59.32; H, 5.95; N, 6.25.

reactant | 2-Ethoxy-5-methyl-4H-3,1-benzoxazin-4-one | 97.56 mmol, 20 g | C(C)OC1=NC2=C(C(O1)=O)C(=CC=C2)C | C11H11NO3
reactant | HCl | 4N, 10 ml | Cl | ClH
reactant | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 2-ethoxycarbonylamino-6-methylbenzoic acid | 16.18 g, 74% | C(C)OC(=O)NC1=C(C(=O)O)C(=CC=C1)C | C11H13NO4
